US06689805B2
5-(4-methanesulfonylphenyl)-4-(4-methoxyphenyl)-1,2-dimethyl-1,2-dihydropyrazole-3-one
3-(4-methanesulfonylphenyl)-2-(4-methoxyphenyl)-3-oxo-propionic acid ethyl ester was dissoved in 20 ml of toluene and then 0.24 g of dimethyl hydrazine was added to the solution. The apparatus containing the mixture was heated and refluxed at 120° C. for 24 hours in the Dean-Stark trap apparatus. The reaction mixture was cooled, diluted with water, and extracted with ethyl acetate. The obtained organic layer was dried on anhydrous magnesium sulfate and concentrated under reduced pressure. The resultant was recrystalized with n-hexane to give 160 mg of the title compound as a yellow solid(yield 53%).

reactant | 3-(4-methanesulfonylphenyl)-2-(4-methoxyphenyl)-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)OC)=O | C19H20O6S
reactant | dimethyl hydrazine | 0.24 g | CNNC | C2H8N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(4-methanesulfonylphenyl)-4-(4-methoxyphenyl)-1,2-dimethyl-1,2-dihydropyrazole-3-one | 160 mg, yield 53% | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C(N(N1C)C)=O)C1=CC=C(C=C1)OC | C19H20N2O4S
